US05888972
To a suspension of sodium hydride (0.4 g) in DMF (8 ml) was added dropwise a solution of 3-pyridinemethanol (1.09 g) in DMF (5 ml), and the mixture was stirred at room temperature for 30 minutes. Then a solution of tert-butyl bromoacetate (1.62 ml) in DMF (5 ml) was added to the mixture. After stirring for one hour, the reaction mixture was concentrated under reduced pressure. The residue was dissolved in AcOEt (20 ml), washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified with SiO2 column chromatography (eluted with 1% MeOH in CHCl3) to give tert-butyl (3-pyridylmethoxy)acetate (435 mg) as an oil.

reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 3-pyridinemethanol | 1.09 g | N1=CC(=CC=C1)CO | C6H7NO
reactant | tert-butyl bromoacetate | 1.62 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | tert-butyl (3-pyridylmethoxy)acetate | 435 mg | N1=CC(=CC=C1)COCC(=O)OC(C)(C)C | C12H17NO3
